US03951980
3-Carbethoxy-8-methyl-3,8-diazabicyclo[3.2.1]octane
8-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride (2.5 g, 0.0126 mole), prepared as described in Example 1, was reacted with 1.51 ml (0.0189 mole) ethyl chloroformate according to the procedure described above for 3-(N,N-diethylcarbamyl)-8-methyl-3,8-diazabicyclo[3.2.1]octane in Example 1. A white monohydrochloride, melting point 200°-205° C, was obtained in 73% yield: 2.16 g.

reactant | 8-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride | 0.0126 mole, 2.5 g | Cl.Cl.CN1C2CNCC1CC2
reactant | ethyl chloroformate | 0.0189 mole, 1.51 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3-(N,N-diethylcarbamyl)-8-methyl-3,8-diazabicyclo[3.2.1]octane | C(C)N(C(=O)N1CC2CCC(C1)N2C)CC | C12H23N3O
product | 3-Carbethoxy-8-methyl-3,8-diazabicyclo[3.2.1]octane | 73% yield | C(=O)(OCC)N1CC2CCC(C1)N2C | C10H18N2O2
